US08030499B2
Step 230-1: Synthesis of 2-bromo-4-isopropyl-1-methoxy benzene
A solution of 20.0 g of 1-isopropyl-4-methoxy benzene, 1.07 g of ammonium nitrate, and 23.7 g of N-bromosuccinimide in MeCN (66.5 ml) was stirred at room temperature for one hour. To the reaction solution was added EtOAc and a saturated aqueous solution of NaHCO3, liquid separation was performed, and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with saturated brine and dried over MgSO4, then, the drying agent was separated by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/n-hexane=1/9, v/v) to obtain 30.4 g of the title compound.

reactant | 1-isopropyl-4-methoxy benzene | 20.0 g | C(C)(C)C1=CC=C(C=C1)OC | C10H14O
reactant | ammonium nitrate | 1.07 g | [N+](=O)([O-])[O-].[NH4+]
reactant | N-bromosuccinimide | 23.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeCN | 66.5 ml | CC#N | C2H3N
product | 2-bromo-4-isopropyl-1-methoxy benzene | 30.4 g | BrC1=C(C=CC(=C1)C(C)C)OC | C10H13BrO
